US08182718B2
Hjf=Tetraethylammonium Diphenylphosphinate
To a flask were added 1.0 g diphenylphosphinic acid, 3.2 g of a 20% solution of tetraethylammonium hydroxide in water and 20 ml 2-propanol. After heating to 50 C under nitrogen for 1 hour, the solvent was removed and another 20 ml of 2-propanol were added and removed by distillation under reduced pressure. After drying, an oil was obtained.

reactant | diphenylphosphinic acid | 1.0 g | C1(=CC=CC=C1)P(O)(=O)C1=CC=CC=C1 | C12H11O2P
reactant | tetraethylammonium hydroxide | [OH-].C(C)[N+](CC)(CC)CC
solvent | water | O | H2O
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | Tetraethylammonium Diphenylphosphinate | C1(=CC=CC=C1)P([O-])(=O)C1=CC=CC=C1.C(C)[N+](CC)(CC)CC | InChI=1S/C12H11O2P.C8H20N/c13-15(14,11-7-3-1-4-8-11)12-9-5-2-6-10-12;1-5-9(6-2,7-3)8-4/h1-10H,(H,13,14);5-8H2,1-4H3/q;+1/p-1
